US04427589
9-Chloro-4a,11b-dihydro-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one 1/3 molar hydrate
Dropwise 9.5 mL (41 mmol) of a 4.3 M methanol solution of sodium methoxide was added to a solution of 8.0 g (22.6 mmol) of a mixture of 8-chloro-1-phenyl-5H-2-benzazepine-5-carboxylic acid butyl ester and 8-chloro-1-phenyl-3H-2-benzazepine-5-carboxylic acid butyl ester and 6.5 g (62.4 mmol) of formamidine acetate in 70 mL of ethanol. When the addition was complete stirring at room temperature was continued for 30 min. The reaction was diluted with water and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue was crystallized from a mixture of ether and petroleum ether to give a yellow solid. Recrystallization from a mixture of ether and methylene chloride gave pale yellow prisms, mp 150°-155°.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 8-chloro-1-phenyl-5H-2-benzazepine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C1C=CN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2 | C21H20ClNO2
reactant | 8-chloro-1-phenyl-3H-2-benzazepine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C1=CCN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2 | C21H20ClNO2
reactant | formamidine acetate | 62.4 mmol, 6.5 g | C(C)(=O)O.C(=N)N
solvent | ethanol | 70 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | methanol | 4.3 M | CO | CH4O
product | 9-Chloro-4a,11b-dihydro-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one | ClC1=CC2=C(C3C(CN=C2C2=CC=CC=C2)N=CNC3=O)C=C1 | C18H14ClN3O
